
* SUBCIRCUIT FOR SINGLE SUPPLY LOWPASS FILTER
* CREATED USING FILTERLAB ON 12/25/2005 AT 21:10:37
* |------------------------------------------------------------|
* |This model is being supplied as an aid to circuit designs.  |
* |While it reflects reasonable close similarity to the actual |
* |filter in terms of performance, it is not suggested as a    |
* |replacement for breadboarding. Simulation should be used as |
* |a forerunner or a supplement to traditional lab testing.    |
* |Neither this model nor any part may be copied without the   |
* |express written consent of Microchip Technology, Inc.       |
* |------------------------------------------------------------|
*
* 5TH ORDER BUTTERWORTH FILTER
* GAIN EQUALS 1
* CONNECTIONS:		INPUT
*			 |    OUTPUT
*			 |    |    POSITIVE POWER SUPPLY
*			 |    |    |    NEGATIVE POWER SUPPLY
*			 |    |    |    |
*			 |    |    |    |
*			 1    2    3    4
.SUBCKT butter5sallen	 10   40   3    4


*************** Stage 1 ***************
R11	10	11	15800.000
C11	11	0	0.00000001
X11	11	20	3	4	20	MCP6xxx

*************** Stage 2 ***************
R21	20	21	7870.000
R22	21	22	17800.000
C21	21	30	0.000000018
C22	22	0	0.00000001
X21	22	30	3	4	30	MCP6xxx

*************** Stage 3 ***************
R31	30	31	3160.000
R32	31	32	6650.000
C31	31	40	0.00000012
C32	32	0	0.00000001
X31	32	40	3	4	40	MCP6xxx

.ENDS

*Microchip Op Amp models are located on the Microchip website (www.microchip.com).
*See the User's Guide for general guidelines to selecting an Op Amp.
.SUBCKT MCP6xxx 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Power Supply
*               | | Positive Power Supply
*               | Inverting Input
*               Non-inverting Input
R1 1 0 1T
R2 2 0 1T
R3 3 0 1T
R4 4 0 1T
E5 5 0 POLY(1) 1 2   0 1T
R5 5 0 1T
.ENDS MCP6xxx
